US09382188B2
B) ethyl 2-bromo-5-hydroxybenzoate
Aluminum chloride (11.0 g) was added to toluene (80 mL) at room temperature. 1-Dodecanethiol (33.5 g) was added at 0° C., and the mixture was stirred for 30 min. A solution of ethyl 2-bromo-5-methoxybenzoate (5.36 g) in toluene (40 mL) was added at 0° C., and the mixture was stirred at room temperature for 1 hr. The reaction mixture was poured into water in an ice bath, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (4.66 g) as a pale-yellow oil.

reactant | Aluminum chloride | 11.0 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 1-Dodecanethiol | 33.5 g | C(CCCCCCCCCCC)S | C12H26S
reactant | ethyl 2-bromo-5-methoxybenzoate | 5.36 g | BrC1=C(C(=O)OCC)C=C(C=C1)OC | C10H11BrO3
reactant | water | O | H2O
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 80 mL | C1(=CC=CC=C1)C | C7H8
product | ethyl 2-bromo-5-hydroxybenzoate | 4.66 g | BrC1=C(C(=O)OCC)C=C(C=C1)O | C9H9BrO3
